US09062032B2
A mixture of 180 mg of 4-[2-(4-{[(2-{[3-({[4-(diethoxyphosphoryl)butanoyl](isopropyl)amino}methyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoic acid, 0.040 mL of bromotrimethylsilane, and 3.6 mL of chloroform was stirred overnight at room temperature. Water was added to the reaction mixture, followed by extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography, thereby obtaining 42 mg of 4-(2-{4-[({2-[(3-{[{4-[ethoxy(hydroxy)phosphoryl]butanoyl}(isopropyl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoic acid.

reactant | 4-[2-(4-{[(2-{[3-({[4-(diethoxyphosphoryl)butanoyl](isopropyl)amino}methyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoic acid | 180 mg | C(C)OP(=O)(OCC)CCCC(=O)N(C(C)C)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1 | C43H52N3O8PS
reactant | bromotrimethylsilane | 0.040 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | chloroform | 3.6 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | 4-(2-{4-[({2-[(3-{[{4-[ethoxy(hydroxy)phosphoryl]butanoyl}(isopropyl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoic acid | 42 mg | C(C)OP(=O)(O)CCCC(=O)N(C(C)C)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1 | C41H48N3O8PS
